US04931576
EXAMPLE 3: n-Octylglycidyl thioether
293 g of n-octylmercaptan and 5 g of tetrabutylammonium chloride are placed into a 1 liter Sovirel reactor (double-walled reaction vessel) fitted with thermometer, stirrer, dropping funnel, dosing dropping-funnel and pH-electrode. To this solution are added dropwise within 80 minutes at a pH value of 11.6-12.0, with stirring and intensive cooling, 184 g of epichlorohydrin. The pH value is maintained constant over the total period of 80 minutes by the corresponding controlled addition of about 10 ml of a 22% aqueous sodium hydroxide solution. The reaction temperature should not exceed 20° C. After completion of the exothermic reaction, 305 ml of 22% sodium hydroxide solution are introduced dropwise within 15 minutes. The reaction mixtue is subsequently stirred at 50° C. for 30 minutes; the aqueous phase is then separated, the organic phase is washed twice with 200 g of water each time, and the organic phase is fractionated in vacuo. The yield is 382 g (94% of theory) with a boiling point of 92°-94° C. at 0.04 mbar and a refractive index of nD20 : 1.4718.

reactant | n-octylmercaptan | 293 g | C(CCCCCCC)S | C8H18S
reactant | epichlorohydrin | 184 g | C(Cl)C1CO1 | C3H5ClO
catalyst | tetrabutylammonium chloride | 5 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 305 ml | [OH-].[Na+]
product | n-Octylglycidyl thioether | C(CCCCCCC)SCC1CO1 | C11H22OS
